US05889009
1-Ethyl-6-fluoro-7-[4-(4-pyridyl)piperazin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (compound No. 3)
A mixture of 0.31 g of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 0.33 g of (4-pyridyl)piperazine and 2 ml of pyridine was stirred at 125° C. for 1 hour. After cooling, the reaction mixture was added to ice water to cause crystallization. The resulting crystal was collected by filtration, washed with ethyl ether and then recrystallized from ethanol to yield 0.1 g of the title compound.

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.31 g | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
reactant | (4-pyridyl)piperazine | 0.33 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6-fluoro-7-[4-(4-pyridyl)piperazin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.1 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C1=CC=NC=C1)F)=O)C(=O)O | C21H21FN4O3
